* Created by KLayout
*** My special header ***

* cell sram_8w2b
* pin BL0
* pin BL1
* pin BLB0
* pin BLB1
* pin VDD
* pin VSS
* pin WL0
* pin WL1
* pin WL2
* pin WL3
* pin WL4
* pin WL5
* pin WL6
* pin WL7
.SUBCKT sram_8w2b BL0 BL1 BLB0 BLB1 VDD VSS WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7
* device instance $1 r0 *1 -376.4,10198 PMOS
XM$1 \$1.QB$1 \$1.Q$1 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $2 r0 *1 -370.8,10198 PMOS
XM$2 VDD \$1.QB$1 \$1.Q$1 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $3 r0 *1 -376.4,10206 PMOS
XM$3 VDD \$1.Q$3 \$1.QB$3 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $4 r0 *1 -370.8,10206 PMOS
XM$4 VDD \$1.QB$3 \$1.Q$3 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $5 r0 *1 -402.6,10198 PMOS
XM$5 \$1.Q \$1.QB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $6 r0 *1 -397,10198 PMOS
XM$6 VDD \$1.Q \$1.QB VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $7 r0 *1 -402.6,10206 PMOS
XM$7 VDD \$1.QB$2 \$1.Q$2 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $8 r0 *1 -397,10206 PMOS
XM$8 VDD \$1.Q$2 \$1.QB$2 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $9 r0 *1 -402.6,10228.1 NMOS
XM$9 \$1.Q$2 \$1.QB$2 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $10 r0 *1 -397,10228.1 NMOS
XM$10 VSS \$1.Q$2 \$1.QB$2 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u
+ PD=15.3u
* device instance $11 r0 *1 -406.1,10235 NMOS
XM$11 \$1.Q$2 WL1 BL0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $12 r0 *1 -393.6,10235 NMOS
XM$12 \$1.QB$2 WL1 BLB0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $13 r0 *1 -406.1,10169 NMOS
XM$13 BL0 WL0 \$1.Q VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $14 r0 *1 -393.6,10169 NMOS
XM$14 BLB0 WL0 \$1.QB VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $15 r0 *1 -402.6,10175.9 NMOS
XM$15 \$1.Q \$1.QB VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $16 r0 *1 -397,10175.9 NMOS
XM$16 \$1.QB \$1.Q VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $17 r0 *1 -379.9,10169 NMOS
XM$17 BL1 WL0 \$1.QB$1 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u
+ PD=15.3u
* device instance $18 r0 *1 -367.4,10169 NMOS
XM$18 BLB1 WL0 \$1.Q$1 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u
+ PD=15.3u
* device instance $19 r0 *1 -376.4,10175.9 NMOS
XM$19 \$1.QB$1 \$1.Q$1 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $20 r0 *1 -370.8,10175.9 NMOS
XM$20 \$1.Q$1 \$1.QB$1 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $21 r0 *1 -376.4,10228.1 NMOS
XM$21 \$1.QB$3 \$1.Q$3 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $22 r0 *1 -370.8,10228.1 NMOS
XM$22 VSS \$1.QB$3 \$1.Q$3 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u
+ PD=15.3u
* device instance $23 r0 *1 -379.9,10235 NMOS
XM$23 \$1.QB$3 WL1 BL1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $24 r0 *1 -367.4,10235 NMOS
XM$24 \$1.Q$3 WL1 BLB1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $25 r0 *1 -376.4,10448.2 PMOS
XM$25 \$2.QB$1 \$2.Q$1 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u
+ PD=9u
* device instance $26 r0 *1 -370.8,10448.2 PMOS
XM$26 VDD \$2.QB$1 \$2.Q$1 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $27 r0 *1 -376.4,10456.2 PMOS
XM$27 VDD \$2.Q$3 \$2.QB$3 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $28 r0 *1 -370.8,10456.2 PMOS
XM$28 VDD \$2.QB$3 \$2.Q$3 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $29 r0 *1 -402.6,10448.2 PMOS
XM$29 \$2.Q \$2.QB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $30 r0 *1 -397,10448.2 PMOS
XM$30 VDD \$2.Q \$2.QB VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $31 r0 *1 -402.6,10456.2 PMOS
XM$31 VDD \$2.QB$2 \$2.Q$2 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $32 r0 *1 -397,10456.2 PMOS
XM$32 VDD \$2.Q$2 \$2.QB$2 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $33 r0 *1 -402.6,10478.3 NMOS
XM$33 \$2.Q$2 \$2.QB$2 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $34 r0 *1 -397,10478.3 NMOS
XM$34 VSS \$2.Q$2 \$2.QB$2 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u
+ PD=15.3u
* device instance $35 r0 *1 -406.1,10485.2 NMOS
XM$35 \$2.Q$2 WL7 BL0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $36 r0 *1 -393.6,10485.2 NMOS
XM$36 \$2.QB$2 WL7 BLB0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $37 r0 *1 -406.1,10419.2 NMOS
XM$37 BL0 WL6 \$2.Q VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $38 r0 *1 -393.6,10419.2 NMOS
XM$38 BLB0 WL6 \$2.QB VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $39 r0 *1 -402.6,10426.1 NMOS
XM$39 \$2.Q \$2.QB VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $40 r0 *1 -397,10426.1 NMOS
XM$40 \$2.QB \$2.Q VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $41 r0 *1 -379.9,10419.2 NMOS
XM$41 BL1 WL6 \$2.QB$1 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u
+ PD=15.3u
* device instance $42 r0 *1 -367.4,10419.2 NMOS
XM$42 BLB1 WL6 \$2.Q$1 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u
+ PD=15.3u
* device instance $43 r0 *1 -376.4,10426.1 NMOS
XM$43 \$2.QB$1 \$2.Q$1 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $44 r0 *1 -370.8,10426.1 NMOS
XM$44 \$2.Q$1 \$2.QB$1 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $45 r0 *1 -376.4,10478.3 NMOS
XM$45 \$2.QB$3 \$2.Q$3 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $46 r0 *1 -370.8,10478.3 NMOS
XM$46 VSS \$2.QB$3 \$2.Q$3 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u
+ PD=15.3u
* device instance $47 r0 *1 -379.9,10485.2 NMOS
XM$47 \$2.QB$3 WL7 BL1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $48 r0 *1 -367.4,10485.2 NMOS
XM$48 \$2.Q$3 WL7 BLB1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $49 r0 *1 -376.4,10364.8 PMOS
XM$49 \$3.QB$1 \$3.Q$1 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u
+ PD=9u
* device instance $50 r0 *1 -370.8,10364.8 PMOS
XM$50 VDD \$3.QB$1 \$3.Q$1 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $51 r0 *1 -376.4,10372.8 PMOS
XM$51 VDD \$3.Q$3 \$3.QB$3 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $52 r0 *1 -370.8,10372.8 PMOS
XM$52 VDD \$3.QB$3 \$3.Q$3 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $53 r0 *1 -402.6,10364.8 PMOS
XM$53 \$3.Q \$3.QB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $54 r0 *1 -397,10364.8 PMOS
XM$54 VDD \$3.Q \$3.QB VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $55 r0 *1 -402.6,10372.8 PMOS
XM$55 VDD \$3.QB$2 \$3.Q$2 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $56 r0 *1 -397,10372.8 PMOS
XM$56 VDD \$3.Q$2 \$3.QB$2 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $57 r0 *1 -402.6,10394.9 NMOS
XM$57 \$3.Q$2 \$3.QB$2 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $58 r0 *1 -397,10394.9 NMOS
XM$58 VSS \$3.Q$2 \$3.QB$2 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u
+ PD=15.3u
* device instance $59 r0 *1 -406.1,10401.8 NMOS
XM$59 \$3.Q$2 WL5 BL0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $60 r0 *1 -393.6,10401.8 NMOS
XM$60 \$3.QB$2 WL5 BLB0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $61 r0 *1 -406.1,10335.8 NMOS
XM$61 BL0 WL4 \$3.Q VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $62 r0 *1 -393.6,10335.8 NMOS
XM$62 BLB0 WL4 \$3.QB VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $63 r0 *1 -402.6,10342.7 NMOS
XM$63 \$3.Q \$3.QB VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $64 r0 *1 -397,10342.7 NMOS
XM$64 \$3.QB \$3.Q VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $65 r0 *1 -379.9,10335.8 NMOS
XM$65 BL1 WL4 \$3.QB$1 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u
+ PD=15.3u
* device instance $66 r0 *1 -367.4,10335.8 NMOS
XM$66 BLB1 WL4 \$3.Q$1 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u
+ PD=15.3u
* device instance $67 r0 *1 -376.4,10342.7 NMOS
XM$67 \$3.QB$1 \$3.Q$1 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $68 r0 *1 -370.8,10342.7 NMOS
XM$68 \$3.Q$1 \$3.QB$1 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $69 r0 *1 -376.4,10394.9 NMOS
XM$69 \$3.QB$3 \$3.Q$3 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $70 r0 *1 -370.8,10394.9 NMOS
XM$70 VSS \$3.QB$3 \$3.Q$3 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u
+ PD=15.3u
* device instance $71 r0 *1 -379.9,10401.8 NMOS
XM$71 \$3.QB$3 WL5 BL1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $72 r0 *1 -367.4,10401.8 NMOS
XM$72 \$3.Q$3 WL5 BLB1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $73 r0 *1 -376.4,10281.4 PMOS
XM$73 \$4.QB$1 \$4.Q$1 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u
+ PD=9u
* device instance $74 r0 *1 -370.8,10281.4 PMOS
XM$74 VDD \$4.QB$1 \$4.Q$1 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $75 r0 *1 -376.4,10289.4 PMOS
XM$75 VDD \$4.Q$3 \$4.QB$3 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $76 r0 *1 -370.8,10289.4 PMOS
XM$76 VDD \$4.QB$3 \$4.Q$3 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $77 r0 *1 -402.6,10281.4 PMOS
XM$77 \$4.Q \$4.QB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $78 r0 *1 -397,10281.4 PMOS
XM$78 VDD \$4.Q \$4.QB VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $79 r0 *1 -402.6,10289.4 PMOS
XM$79 VDD \$4.QB$2 \$4.Q$2 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $80 r0 *1 -397,10289.4 PMOS
XM$80 VDD \$4.Q$2 \$4.QB$2 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u
+ PD=12.4u
* device instance $81 r0 *1 -402.6,10311.5 NMOS
XM$81 \$4.Q$2 \$4.QB$2 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $82 r0 *1 -397,10311.5 NMOS
XM$82 VSS \$4.Q$2 \$4.QB$2 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u
+ PD=15.3u
* device instance $83 r0 *1 -406.1,10318.4 NMOS
XM$83 \$4.Q$2 WL3 BL0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $84 r0 *1 -393.6,10318.4 NMOS
XM$84 \$4.QB$2 WL3 BLB0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $85 r0 *1 -406.1,10252.4 NMOS
XM$85 BL0 WL2 \$4.Q VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $86 r0 *1 -393.6,10252.4 NMOS
XM$86 BLB0 WL2 \$4.QB VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $87 r0 *1 -402.6,10259.3 NMOS
XM$87 \$4.Q \$4.QB VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $88 r0 *1 -397,10259.3 NMOS
XM$88 \$4.QB \$4.Q VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $89 r0 *1 -379.9,10252.4 NMOS
XM$89 BL1 WL2 \$4.QB$1 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u
+ PD=15.3u
* device instance $90 r0 *1 -367.4,10252.4 NMOS
XM$90 BLB1 WL2 \$4.Q$1 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u
+ PD=15.3u
* device instance $91 r0 *1 -376.4,10259.3 NMOS
XM$91 \$4.QB$1 \$4.Q$1 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $92 r0 *1 -370.8,10259.3 NMOS
XM$92 \$4.Q$1 \$4.QB$1 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $93 r0 *1 -376.4,10311.5 NMOS
XM$93 \$4.QB$3 \$4.Q$3 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u
+ PD=14u
* device instance $94 r0 *1 -370.8,10311.5 NMOS
XM$94 VSS \$4.QB$3 \$4.Q$3 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u
+ PD=15.3u
* device instance $95 r0 *1 -379.9,10318.4 NMOS
XM$95 \$4.QB$3 WL3 BL1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
* device instance $96 r0 *1 -367.4,10318.4 NMOS
XM$96 \$4.Q$3 WL3 BLB1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u
+ PD=17.4u
.ENDS sram_8w2b
