** sch_path: /home/take/Design/tr10_sram/array/8word_x_2bit/sram_8w2b.sch
.subckt sram_8w2b VDD VSS BL0 BLB0 BL1 BLB1 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7
*.PININFO VDD:B VSS:B BL0:B BLB0:B BL1:B BLB1:B WL0:I WL1:I WL2:I WL3:I WL4:I WL5:I WL6:I WL7:I
x1 BL0 BLB0 WL1 VDD VSS sram6t_tr10
x2 BL1 BLB1 WL1 VDD VSS sram6t_tr10
x3 BL0 BLB0 WL0 VDD VSS sram6t_tr10
x4 BL1 BLB1 WL0 VDD VSS sram6t_tr10
x5 BL0 BLB0 WL3 VDD VSS sram6t_tr10
x6 BL1 BLB1 WL3 VDD VSS sram6t_tr10
x7 BL0 BLB0 WL2 VDD VSS sram6t_tr10
x8 BL1 BLB1 WL2 VDD VSS sram6t_tr10
x9 BL0 BLB0 WL5 VDD VSS sram6t_tr10
x10 BL1 BLB1 WL5 VDD VSS sram6t_tr10
x11 BL0 BLB0 WL4 VDD VSS sram6t_tr10
x12 BL1 BLB1 WL4 VDD VSS sram6t_tr10
x13 BL0 BLB0 WL7 VDD VSS sram6t_tr10
x14 BL1 BLB1 WL7 VDD VSS sram6t_tr10
x15 BL0 BLB0 WL6 VDD VSS sram6t_tr10
x16 BL1 BLB1 WL6 VDD VSS sram6t_tr10
.ends

* expanding   symbol:  /home/take/Design/tr10_sram/cell/sram6t_tr10.sym # of pins=5
** sym_path: /home/take/Design/tr10_sram/cell/sram6t_tr10.sym
** sch_path: /home/take/Design/tr10_sram/cell/sram6t_tr10.sch
.subckt sram6t_tr10 BL BLB WL VDD VSS
*.PININFO BL:B BLB:B WL:I VDD:B VSS:B
MXM1 Q QB VDD VDD PMOS w=3.4u l=1u
MXM2 QB Q VDD VDD PMOS w=3.4u l=1u
MXM4 QB Q VSS VSS NMOS w=6.8u l=1u
MXM3 Q QB VSS VSS NMOS w=6.8u l=1u
MXM5 BL WL Q VSS NMOS w=5.1u l=1u
MXM6 BLB WL QB VSS NMOS w=5.1u l=1u
.ends

